* PSpice Model Editor - Version 10.5.0
*$
*PART NUMBER:NJU7057
*CMOS OPAMP
*Version:1
*Please note that the inaccuracy is involved to it when you use this model.
*Please refrain from the model's resale.
********************************************
*Model Generated by NEW JAPAN RADIO CO.,LTD*
*            All Rights Reserved           *
*   Commercial Use or Resale Restricted    *
********************************************
.Subckt NJU7057 OUT1 -IN1 +IN1 V- +IN2 -IN2 OUT2 V+
X_U1 +IN1 -IN1 V+ V- OUT1 NJU7057_s
X_U2 +IN2 -IN2 V+ V- OUT2 NJU7057_s
.ends NJU7057
*$
* connections:         non-inverting input
*                      | inverting input
*                      | | positive power supply
*                      | | | negative power supply
*                      | | | |
*                      | | | | output
*                      | | | | |
.subckt NJU7057_s      1 2 3 4 5
C1 11 12 {C1}
C2 15 16 {C2}
CS 10 0 {CS}
D1 16 17 DMOD1
D2 17 16 DMOD1
D3 5 18 DMOD2
D4 19 5 DMOD2
GB 16 0 15 0 {GB}
GA 15 0 11 12 {GA}
GC 0 17 5 0 {GC}
GCM 0 15 10 0 {GCM}
ITL 10 4 {ITL}
M1 11 2 13 13 NMOS1
M2 12 NET1 14 14 NMOS2 
RO1 16 5 {RO1}
RC 17 0 {RC}
RO2 16 0 {RO2}
R2 15 0 100E3
RD1 3 11 {RD1}
RD2 3 12 {RD2}
RS2 14 10 {RS2}
RS1 13 10 {RS1}
RP 3 4 {RP}
Vos 1 NET1 DC {VOS}
VS 19 4 DC {VS}
VD 3 18 DC {VD}

.MODEL DMOD1 D(T_MEASURED= 25 IS= 1.52E-32)
.MODEL DMOD2 D(T_MEASURED= 25 IS= 8.00E-16)
.MODEL NMOS1 NMOS(LEVEL=1 VTO= 4.89E-01
+ KP= 1.78E-04 L={L_VAL} W={W_VAL} TOX= 1.30E-08 U0= 6.70E+02)
.MODEL NMOS2 NMOS(LEVEL=1 VTO= 4.89E-01
+ KP= 1.78E-04 L={L_VAL} W={W_VAL} TOX= 1.30E-08 U0= 6.70E+02)
*
.PARAM
+ C1   = 1.28E-12
+ C2   = 1.51E-11
+ CS   = 4.08E-12
+ GCM  = 2.01E-08
+ GA   = 2.01E-04
+ GB   = 62.95
+ GC   = 4876.245145
+ ITL  = 1.55E-05
+ RS   = 1.29E+07
+ RD1  = 4976.25
+ RD2  = 4976.25
+ RC   = 2.05E-04
+ RS1  = 60.15
+ RS2  = 60.15
+ RO1  = 50
+ RO2  = 25
+ RP   = 2.04E+04
+ VD   = 0.858005
+ VS   = 0.85803518
+ VOS  = 0.52695234E-03
+ VRD  = 2.50E-01
+ L_VAL= 2.00E-06
+ W_VAL= 3.00E-05

.ends NJU7057_s
*$
